US09388189B2
a) Benzyl (2-((3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-2-oxoethyl)carbamate
DIEA (10.5 ml, 60 mmol) was added at 0° C. over a mixture of 1-amino-3-bromo-N-phenyl-1H-pyrrole-2-carboxamide (5.1 g, 18 mmol) and 2-(benzyloxycabonylamino)acetic acid (5.33 g, 25 mmol) in anhydrous ethyl acetate (100 ml). After 15 min T3P® solution (50% AcOEt, 15 ml) was slowly added and stirred 20 min at 0° C. and then at room temperature overnight. Further DIEA (5 ml, 30 mmol), 2-(benzyloxycabonylamino)acetic acid (2.66 g, 25 mmol) and T3P® solution (50% AcOEt, 7 ml) were added and the reaction mixture was stirred at room temperature overnight. More ethyl acetate was added and the reaction crude was washed with water and brine, dried over magnesium sulphate and the solvent was removed under vacuum. The residue was purified by flash chromatography using Isolera® Purification System (0-40%, hexane-AcOEt) to give 7.81 g (41% yield) of the final product with a purity of 45% that was used in the next step without further purification.

reactant | DIEA | 60 mmol, 10.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-amino-3-bromo-N-phenyl-1H-pyrrole-2-carboxamide | 18 mmol, 5.1 g | NN1C(=C(C=C1)Br)C(=O)NC1=CC=CC=C1 | C11H10BrN3O
reactant | 2-(benzyloxycabonylamino)acetic acid | 25 mmol, 5.33 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIEA | 30 mmol, 5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(benzyloxycabonylamino)acetic acid | 25 mmol, 2.66 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | Benzyl (2-((3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-2-oxoethyl)carbamate | 7.81 g, 41% yield | BrC1=C(N(C=C1)NC(CNC(OCC1=CC=CC=C1)=O)=O)C(NC1=CC=CC=C1)=O | C21H19BrN4O4
